US04021542
1-hydrazino-2,3,5-tri-O-methyl-D-ribose
1.7 g (8.5 mmoles) of 2,3,5-tri-O-methyl-D-ribose are dissolved in 5 ml of absolute methanol. While stirring, 4.25 g (85 mmoles) of 100% hydrazine hydrate (dissolved in 5 ml of absolute methanol) are added. As a result slight heating occurs. Stirring is carried out for 2 days of room temperature. Following this methanol and superfluous hydrazine hydrate are removed in a rotary evaporator at room temperature (oil pump vacuum). Following this drying is carried out for one day under oil pump vacuum. A colorless oil is obtained. Yield: 1.6 g (92 %).

reactant | 2,3,5-tri-O-methyl-D-ribose | 8.5 mmoles, 1.7 g | CO[C@@H](C=O)[C@H](OC)[C@H](O)COC | C8H16O5
reactant | hydrazine hydrate | 85 mmoles, 5 ml, 4.25 g | O.NN
solvent | methanol | 5 ml | CO | CH4O
product | 1-hydrazino-2,3,5-tri-O-methyl-D-ribose | N(N)C(=O)[C@H](OC)[C@H](OC)[C@H](O)COC | C8H18N2O5
